US03984460
n-Octadecyl 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetate
8.85 grams of 5-tert.-butyl-2,3,-dimethyl-4-hydroxyphenylacetic acid, 9.45 grams of n-octadecanol and 0.665 grams of p-toluenesulfonic acid monohydrate were dispersed in 500 ml of toluene and heated at reflux for 7 hours. A little ether was added to the cooled reaction mixture to prevent precipitation. The reaction solution was then successively washed with water, saturated sodium bicarbonate solution and water once again until neutral. After drying over anyhyrous sodium sulfate and filtering, the clear filtrate was concentrated at reduced pressures. After washing with cold acetonitrile, the dried ground residue was crystallized from n-heptane yielding white cyrstals melting at 79° to 81° (Compound 15).

reactant | 5-tert.-butyl-2,3,-dimethyl-4-hydroxyphenylacetic acid | 8.85 grams | C(C)(C)(C)C=1C(=C(C(=C(C1)CC(=O)O)C)C)O | C14H20O3
reactant | n-octadecanol | 9.45 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | p-toluenesulfonic acid monohydrate | 0.665 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ether | CCOCC | C4H10O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | n-Octadecyl 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetate | C(C)(C)(C)C=1C(=C(C(=C(C1)CC(=O)OCCCCCCCCCCCCCCCCCC)C)C)O | C32H56O3
